US06586617B1
Synthesis of 4′,5-Dichloro-N-methyl-2′-nitro-2-thiophenesulfonanilide (Compound No. 370)
To a suspension of sodium hydride (60%, 0.15 g (3.75 mmol)) in DMF (5.0 ml), 4-chloro-N-methyl-2-nitroaniline (0.34 g (1.82 mmol)) was added with stirring at room temperature. To the resulting mixture, after 30 minutes' stirring at room temperature, 5-chloro-2-thiophenesulfonyl chloride (0.67 g (3.11 mmol)) was added. The reaction mixture was stirred at room temperature for 24 hours and then poured into water and extracted with chloroform. The extract was washed with water and saturated sodium chloride solution, successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was then subjected to silica gel column chromatography with acetone-hexane (1:4) as eluent, to give 0.11 g (16%) of the title compound as pale yellow crystals.

reactant | sodium hydride | 3.75 mmol, 0.15 g | [H-].[Na+]
reactant | 4-chloro-N-methyl-2-nitroaniline | 1.82 mmol, 0.34 g | ClC1=CC(=C(NC)C=C1)[N+](=O)[O-] | C7H7ClN2O2
reactant | 5-chloro-2-thiophenesulfonyl chloride | 3.11 mmol, 0.67 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | water | O | H2O
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | 4′,5-Dichloro-N-methyl-2′-nitro-2-thiophenesulfonanilide | 0.11 g, 16% | ClC1=CC(=C(N(S(=O)(=O)C=2SC(=CC2)Cl)C)C=C1)[N+](=O)[O-] | C11H8Cl2N2O4S2
